US03941785
b. 5-(2-Amino-3,4-dihydro-5-methyl-7-propylimidazo[5,1-f]-as-triazin-4-yl)barbituric acid, hydrochloride
5(2-Amino-3,4-dihydro-5-methyl-7-propylimidazo [5,1-f]-as-triazin-4-yl)barbituric acid (0.5 g.) in ethanol (10 ml.) was treated with a solution of hydrogen chloride in ether. The solid was collected and crystallised from a mixture of methanol and ether and had m.p. 200°-205°.

reactant | 5(2-Amino-3,4-dihydro-5-methyl-7-propylimidazo [5,1-f]-as-triazin-4-yl)barbituric acid | 0.5 g | NC1=NN2C(C(N1)C1C(NC(NC1=O)=O)=O)=C(N=C2CCC)C | C13H17N7O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 5-(2-Amino-3,4-dihydro-5-methyl-7-propylimidazo[5,1-f]-as-triazin-4-yl)barbituric acid, hydrochloride | Cl.NC1=NN2C(C(N1)C1C(NC(NC1=O)=O)=O)=C(N=C2CCC)C | InChI=1S/C13H17N7O3.ClH/c1-3-4-6-15-5(2)9-8(16-12(14)19-20(6)9)7-10(21)17-13(23)18-11(7)22;/h7-8H,3-4H2,1-2H3,(H3,14,16,19)(H2,17,18,21,22,23);1H
